US04810713
7-(3-Chloropropoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester
A mixture of 23.4 g (0.1 mole) of 7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester, 31.6 g (0.2 mole) of 1-bromo-3-chloropropane and 41.5 g (0.3 mole) of anhydrous potassium carbonate in 500 ml of acetone was heated at reflux for 20 hr. The mixture was cooled and filtered through Celite. The filtrate was concentrated under reduced pressure to give a solid residue. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration, and recrystallized from 2-propanol to yield 22.5 g (73%) of white solid, m.p. 107°-108° C.

reactant | 7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester | 0.1 mole, 23.4 g | C(C)OC(=O)C=1OC2=C(C(C1)=O)C=CC(=C2)O | C12H10O5
reactant | 1-bromo-3-chloropropane | 0.2 mole, 31.6 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.3 mole, 41.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 7-(3-Chloropropoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester | 22.5 g, 73% | C(C)OC(=O)C=1OC2=C(C(C1)=O)C=CC(=C2)OCCCCl | C15H15ClO5
